US08071766B2
To a solution of (R,Z)-2-amino-7-(2-bromo-4-fluorophenyl)-4-methyl-7,8-dihydropyrido[4,3-d]pyrimidin-5(6H)-one oxime (0.3 mmol, 109 mg) in DMF (2.0 mL) was added Cs2CO3 (0.45 mmol, 146 mg) and 3-bromodihydrofuran-2(3H)-one (0.36 mmol, 33.6 μL). The reaction mixture was stirred overnight at r.t. and LCMS shows completion of the reaction. The reaction mixture was poured on crushed ice and the resultant solid was filtered and dried to afford 3-((Z)—((R)-2-amino-7-(2-bromo-4-fluorophenyl)-4-methyl-7,8-dihydropyrido[4,3-d]pyrimidin-5(6H)-ylidene)aminooxy)dihydrofuran-2(3H)-one (105 mg, 78%) as off white solid. MS (ES). [M+H] calculated for C18H18BrFN5O3, 450.05. found 450.30.

reactant | (R,Z)-2-amino-7-(2-bromo-4-fluorophenyl)-4-methyl-7,8-dihydropyrido[4,3-d]pyrimidin-5(6H)-one oxime | 0.3 mmol, 109 mg | NC=1N=C(C/2=C(N1)C[C@@H](N\C2=N/O)C2=C(C=C(C=C2)F)Br)C | C14H13BrFN5O
reactant | Cs2CO3 | 0.45 mmol, 146 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 3-bromodihydrofuran-2(3H)-one | 0.36 mmol, 33.6 μL | BrC1C(OCC1)=O | C4H5BrO2
solvent | DMF | 2.0 mL | CN(C)C=O | C3H7NO
product | 3-((Z)—((R)-2-amino-7-(2-bromo-4-fluorophenyl)-4-methyl-7,8-dihydropyrido[4,3-d]pyrimidin-5(6H)-ylidene)aminooxy)dihydrofuran-2(3H)-one | 105 mg, 78% | NC=1N=C(C/2=C(N1)C[C@@H](N\C2=N/OC2C(OCC2)=O)C2=C(C=C(C=C2)F)Br)C | C18H17BrFN5O3
